US07276516B2
Add 1-bromo-4-fluorobenzene (110 μL, 180 mg, 1.0 mmol, 2.0 equiv) to a mixture of N-azetidin-3-yl-4-(3-phenyl-indole-1-sulfonyl)-benzamide (216 mg, 0.501 mmol, 1 equiv), tris(dibenzylideneacetone)dipalladium(0) (12 mg, 0.012 mmol, 0.025 equiv), 2-(di-tert-butylphosphino)biphenyl (8 mg, 0.03 mmol, 0.05 equiv), and sodium tert-butoxide (58 mg, 0.60 mmol, 1.2 equiv) in anhydr toluene (2 mL). Heat the reaction mixture at 100° C. for 14 h. After cooling, dilute the reaction mixture with CH2Cl2 and transfer through a 0.45-μm filter disc to a column of silica gel (80 mm×20 mm dia.) and elute (10-35% EtOAc/hex) to yield 63 mg (24%) of N-[1-(4-fluoro-phenyl)-azetidin-3-yl]-4-(3-phenyl-indole-1-sulfonyl)-benzamide as a white solid.

reactant | 1-bromo-4-fluorobenzene | 1.0 mmol, 110 μL, 180 mg, 2.0 equiv | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | N-azetidin-3-yl-4-(3-phenyl-indole-1-sulfonyl)-benzamide | 0.501 mmol, 216 mg, 1 equiv | N1CC(C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C24H21N3O3S
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.03 mmol, 8 mg, 0.05 equiv | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg, 1.2 equiv | CC(C)([O-])C.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.012 mmol, 12 mg, 0.025 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[1-(4-fluoro-phenyl)-azetidin-3-yl]-4-(3-phenyl-indole-1-sulfonyl)-benzamide | 63 mg, 24% | FC1=CC=C(C=C1)N1CC(C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C30H24FN3O3S
